US05089496
C. 5-METHOXY-8-CHLORO-11-(1-METHYL-4-PIPERIDINYL)-11H-BENZO [5,6]CYCLOHEPTA[1,2-b]PYRIDIN-11-OL
Add a 1.5 M Grignard solution of N-methyl 4-chloropiperidine (150 mL, 22.5 mmol) in THF dropwise over a 7 minute period to 5-methoxy-8-chloro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-one (5.00 g, 18.4 mmol) in THF (70 mL) at 0° C. and under an argon atmosphere. Quench the reaction after 30 minutes with a saturated solution of NH4Cl (pH 8) and extract (3×) with CHCl3. Combine the organic portions, wash with brine, dry over sodium sulfate, filter and concentrate in vacuo. Purify via flash chromatography (CH3OH 5% in CH2Cl2) to give the title compound (3.60 g, 53%) as a solid. The solid may be recrystallized from isopropyl ether to give a white powder (mp 168°-170° C.).

reactant | N-methyl 4-chloropiperidine | 22.5 mmol, 150 mL | CN1CCC(CC1)Cl | C6H12ClN
reactant | 5-methoxy-8-chloro-11H-benzo[5,6]cyclohepta[1,2-b]pyridin-11-one | 18.4 mmol, 5.00 g | COC1=CC2=C(C(C3=NC=CC=C31)=O)C=CC(=C2)Cl | C15H10ClNO2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 5-METHOXY-8-CHLORO-11-(1-METHYL-4-PIPERIDINYL)-11H-BENZO [5,6]CYCLOHEPTA[1,2-b]PYRIDIN-11-OL | 3.60 g, 53% | COC1=CC2=C(C(C3=NC=CC=C31)(O)C3CCN(CC3)C)C=CC(=C2)Cl | C21H23ClN2O2
